US04182776
p-[(3-Phenoxypropyl)amino]benzoic acid
A mixture of 15 g of ethyl p-[(3-phenoxypropyl)-amino]benzoate, 15 g of potassium hydroxide and 150 ml of ethanol-water (9:1) is refluxed for 3.5 hours. The mixture is acidified while hot with concentrated hydrochloric acid, diluted with water, chilled and filtered to give yellow crystals, mp 159°-162° C. Recrystallization from ethanol gives pale yellow crystals, mp 161°-163° C.

reactant | ethyl p-[(3-phenoxypropyl)-amino]benzoate | 15 g | O(C1=CC=CC=C1)CCCNC1=CC=C(C(=O)OCC)C=C1 | C18H21NO3
reactant | potassium hydroxide | 15 g | [OH-].[K+]
reactant | ethanol water | 150 ml | C(C)O.O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | p-[(3-Phenoxypropyl)amino]benzoic acid | O(C1=CC=CC=C1)CCCNC1=CC=C(C(=O)O)C=C1 | C16H17NO3
